Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[O:7][H:8].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8],-0.65028183323
[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-7.32516769
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-0.606984993211
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.6197662949200002
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[O:9][H:10],2.68110569466
[H:1][O:2][C:3]([H:4])/[C:5](=[C:7](\[H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.17034236247
[H:1][O:2][C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]=[C:4]([H:8])[H:9].[O:5]([H:6])[C:7],3.85147341125
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]#[C:4][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.87300488608
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[C:6]([H:7])#[C:8][H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.1303885247499998
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.50526912131
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],3.9698549571
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]#[C:5][H:6]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-6.37627827204
[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6](=[O:7])[H:8]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6](=[O:7])[H:8],-3.19120814709
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.63005161781
[C:1]#[C:2][C:6]([H:7])=[C:8]([H:9])[H:10].[C:3](=[O:4])[H:5]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-2.8859052991
[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7].[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9],-6.28320609924
[C:1][C:2](=[O:3])[O:4][C:5]#[C:6][H:7]>>[C:1].[C:2](=[O:3])[O:4][C:5]#[C:6][H:7],3.95531879389
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[C:8]([H:9])=[C:10]([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.90637721029
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],4.8063890128
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],5.00294706436
[C:10](=[O:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10](=[O:11])[H:12],-4.69168715931
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13][H:14],5.12111689904
[H:1][O:2][C:3][O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-2.58230238787
[H:5].[O:1][O:2][C:3]([H:4])[C:6]#[C:7][H:8]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-3.32473782111
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],3.6749295322
[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])(=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],2.9255582387
[C:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])([H:8])[H:9],3.63123996351
[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]=[C:7]([H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.56452645951
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.555784458030001
